US03962307
To 124 parts of 6N hydrochloric acid is added 48.8 parts of 2,5-diisobutylaniline. The mixture is cooled to 0° and a cold solution of 17.3 parts of sodium nitrite in water is added slowly, keeping temp. at 0°. A cold solution of 35 parts of ammonium fluoroborate in 120 parts of water is added with vigorous stirring. After one half hour, the precipitate is collected, washed with 25 parts cold 5% ammonium fluoroborate solution, 30 parts cold methanol and ether. The 2,5-diisobutylbenzenediazonium fluoroborate is air dried. The salt is placed in a flask with tube connecting to a second cooled flask and heated until decomposition begins. Sufficient heat to maintain gentle decomposition is continued. When decomposition is complete, the 2-fluoro-1,4-diisobutylbenzene is taken up in ether, washed with dilute sodium hydroxide and water and dried. Removal of the ether gives 2-fluoro-1,4-diisobutylbenzene which can be purified by distillation under reduced pressure.

reactant | hydrochloric acid | 6N | Cl | ClH
reactant | 2,5-diisobutylaniline | C(C(C)C)C1=C(N)C=C(C=C1)CC(C)C | C14H23N
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | ammonium fluoroborate | F[B-](F)(F)F.[NH4+]
solvent | water | O | H2O
product | 2-fluoro-1,4-diisobutylbenzene | FC1=C(C=CC(=C1)CC(C)C)CC(C)C | C14H21F
